US06346532B1
A solution of 8.02 g of (R)-1-phenyl-2-[[2-(4-nitrophenyl)ethyl]amino]ethanol and 6.30 g of di-tert-butyl dicarbonate in 80 ml of tetrahydrofuran was stirred for 12 hours at room temperature. The residue obtained by evaporation of the solvent was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to give 10.8 g of tert-butyl (R)-N-(2-hydroxy-2-phenylethyl)-N-[2-(4-nitro-phenyl)ethyl]carbamate.

reactant | (R)-1-phenyl-2-[[2-(4-nitrophenyl)ethyl]amino]ethanol | 8.02 g | C1(=CC=CC=C1)[C@H](CNCCC1=CC=C(C=C1)[N+](=O)[O-])O | C16H18N2O3
reactant | di-tert-butyl dicarbonate | 6.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | tert-butyl (R)-N-(2-hydroxy-2-phenylethyl)-N-[2-(4-nitro-phenyl)ethyl]carbamate | 10.8 g | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C21H26N2O5
